US06175047B1
(2) Synthesis of 10-tetradecene-14-olide
0.05 g of tricyclohexylphosphine, 0.06 g (0.1 mmol) of di-μ-chlorobis ((p-cymene)chlororuthenium), 10 ml of toluene, 0.05 g (1.85 mmol) of an aluminum powder, 0.252 g (1 mmol) of 4-pentenyl 10-undecenoate and 0.021 ml (0.2 mmol) of methyl dichloroacetate were blended and the mixture was stirred at 80° C. for 16 hours in a nitrogen stream. A solvent was distilled and the residue was refined by silica gel column chromatography (toluene/ethyl acetate=10/1) to obtain 0.09 g of an object material (yield: 40%). The result of 1H-NMR of the above reaction solution is as follows:

reactant | tricyclohexylphosphine | 0.05 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | aluminum | 1.85 mmol, 0.05 g | [Al] | Al
reactant | 4-pentenyl 10-undecenoate | 1 mmol, 0.252 g | C(CCCCCCCCC=C)(=O)OCCCC=C | C16H28O2
reactant | methyl dichloroacetate | 0.2 mmol, 0.021 ml | ClC(C(=O)OC)Cl | C3H4Cl2O2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 10-tetradecene-14-olide | 0.09 g, yield: 40% | C1(CCCCCCCCC=CCCCO1)=O | C14H24O2
